US07144913B2
Step 1: Ethyl 6-(methylsulfanyl)-1H-2-indolecarboxylate
Starting from 3-(methylthio)aniline and ethyl 2-methylacetoacetate, th title compound was prepared by following the published procedure for ethyl 6-methoxy-3-methyl-1H-2-indolecarboxylate (T. Gan et al, J. Org. Chem. 1997, 62, 9298–9304).

reactant | 3-(methylthio)aniline | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | ethyl 2-methylacetoacetate | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | ethyl 6-methoxy-3-methyl-1H-2-indolecarboxylate | COC1=CC=C2C(=C(NC2=C1)C(=O)OCC)C | C13H15NO3
product | Ethyl 6-(methylsulfanyl)-1H-2-indolecarboxylate | CSC1=CC=C2C=C(NC2=C1)C(=O)OCC | C12H13NO2S
